US07910595B2
4-Fluoro-3-nitro-phenylamine was reacted with 3-methoxybenzoyl chloride according to the procedure of Example 256a substituting 3-methoxybenzoyl chloride for thiophene-2-carbonyl chloride to provide N-(4-Fluoro-3-nitro-phenyl)-3-methoxy-benzamide which was then reacted according to the procedures of Examples 256b and 256c to provide the title product.

reactant | 4-Fluoro-3-nitro-phenylamine | FC1=C(C=C(C=C1)N)[N+](=O)[O-] | C6H5FN2O2
reactant | 3-methoxybenzoyl chloride | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
reactant | thiophene-2-carbonyl chloride | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
product | N-(4-Fluoro-3-nitro-phenyl)-3-methoxy-benzamide | FC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)OC)=O)[N+](=O)[O-] | C14H11FN2O4
